US07985876B2
Dimethyl 4,4′-[3-(hydroxymethyl)pentane-1,5-diyl]dibenzoate
At −10° C., 54.1 ml (54.1 mmol) of a 1 M borane/THF complex solution are added dropwise to a solution of 10.4 g (27.1 mmol) of 4-[4-(methoxycarbonyl)phenyl]-2-{2-[4-(methoxy-carbonyl)phenyl]ethyl}butanoic acid in 260 ml of THF. The reaction mixture is then warmed to 0° C. and stirred at this temperature for 4 h. After the reaction has gone to completion, saturated ammonium chloride solution is added, the reaction mixture is diluted with water and ethyl acetate and the aqueous phase is extracted twice with ethyl acetate. The combined organic phases are dried over magnesium sulfate and freed from the solvent under reduced pressure. This gives 8.73 g (23.56 mmol, 87% of theory) of a colorless oil.

reactant | 4-[4-(methoxycarbonyl)phenyl]-2-{2-[4-(methoxy-carbonyl)phenyl]ethyl}butanoic acid | 27.1 mmol, 10.4 g | COC(=O)C1=CC=C(C=C1)CCC(C(=O)O)CCC1=CC=C(C=C1)C(=O)OC | C22H24O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 260 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Dimethyl 4,4′-[3-(hydroxymethyl)pentane-1,5-diyl]dibenzoate | OCC(CCC1=CC=C(C(=O)OC)C=C1)CCC1=CC=C(C(=O)OC)C=C1 | C22H26O5
